US03959263
trans-2-(3-Hydroxy-1-octenyl)-5-oxocyclopentaneacetic acid (4; R2, R4, R5 and R6 = H and n = 3)
A suspension of dimethyl trans-1-(carbomethoxymethyl)-5-(3-hydroxy-1-octenyl)-2-oxo-1,3-cyclopentanedicarboxylate (26.24 g), described in Example 42, in a solution of sodium hydroxide (12 g) in 70 ml of water and 80 ml of methanol is heated at reflux for 2 hr. The reaction mixture is cooled, acidified to pH 6 with 2N HCl. The resulting oil is extracted with ether. The ether extract is washed with water, dried (MgSO4) and the solvent removed. The residue is subjected to chromatography on silica gel (850 g). Elution with methanol-chloroform (1:9) yields the title compound, νmaxfilm 3350, 1727 cm-1. The corresponding methyl ester of the title compound, prepared by treatment with diazomethane, has νmaxfilm 3412, 1737 cm-1.

reactant | dimethyl trans-1-(carbomethoxymethyl)-5-(3-hydroxy-1-octenyl)-2-oxo-1,3-cyclopentanedicarboxylate | 26.24 g | C(=O)(OC)CC1(C([C@H](C[C@@H]1C=CC(CCCCC)O)C(=O)OC)=O)C(=O)OC | C20H30O8
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | water | 70 ml | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | trans-2-(3-Hydroxy-1-octenyl)-5-oxocyclopentaneacetic acid | OC(C=C[C@H]1[C@@H](C(CC1)=O)CC(=O)O)CCCCC | C15H24O4
